US07435837B2
Treatment of (±)-(7-tert-butyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (12.43 g, 0.035 mol) with sodium azide (6.73 g, 0.103 mol) generally according to the procedure described for Intermediate 98 afforded (±)-2-(azidomethyl)-7-tert-butyl-2,3-dihydro-1-benzofuran. Treatment of the azide with palladium on carbon (0.750 g, 10 wt. %) generally according to the procedure described for Example 1 gave 5.56 g (67%) of (±)-1-(7-tert-butyl-2,3-dihydro-1-benzofuran-2-yl)methanamine as a white solid, hydrochloride salt. mp 177-180° C. (dec); Anal. Calcd. for C13H19NOHCl: C, 64.59; H, 8.34; N, 5.79. Found: C, 64.34; H, 9.19; N, 5.73.

reactant | (±)-(7-tert-butyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 0.035 mol, 12.43 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C(C)(C)C | C20H24O4S
reactant | sodium azide | 0.103 mol, 6.73 g | [N-]=[N+]=[N-].[Na+]
reactant | (±)-2-(azidomethyl)-7-tert-butyl-2,3-dihydro-1-benzofuran | N(=[N+]=[N-])CC1OC2=C(C1)C=CC=C2C(C)(C)C | C13H17N3O
reactant | azide | [N-]=[N+]=[N-]
catalyst | palladium on carbon | 0.750 g | [Pd] | Pd
product | (±)-1-(7-tert-butyl-2,3-dihydro-1-benzofuran-2-yl)methanamine | 5.56 g, 67% | C(C)(C)(C)C1=CC=CC=2CC(OC21)CN | C13H19NO
